US08242125B2
150-C. tert-butyl (4-(1H-indol-5-yloxy)pyrimidin-2-yl)methyl(methyl)carbamate
To a solution of (4-(1H-indol-5-yloxy)pyrimidin-2-yl)methanol (0.47 g, 1.95 mmol) and triethylamine (0.815 ml, 5.84 mmol) in THF at 0° C. is added methanesulfonyl chloride (0.228 mL, 2.92 mmol). The reaction is allowed to stir at 0° C. for 45 min at which time a 40% solution of methylamine in water (3.37 ml, 39.0 mmol) is added. The reaction is placed at room temperature and stirred for 30 min. The reaction is then diluted with brine and ethyl acetate. The layers are separated and the aqueous layer is extracted two additional times with ethyl acetate. The organic layers are combined, dried over anhydrous Na2SO4, filtered, and concentrated. The resulting residue is then diluted with DCM (15 mL), to the resulting solution is added di-tert-butyl dicarbonate (0.42 g, 1.9 mmol). The reaction is permitted to stir for approximately 30 minutes at room temperature, at which time it is diluted with saturated aqueous NaHCO3. The resulting mixture is extracted twice with DCM. The organic layers are combined dried over anhydrous Na2SO4, filtered, and concentrated. The resulting residue is purified via FCC (30-80% EtOAc (2.5% EtOH)/heptane) to give the title compound. MS (ESI) m/z 355.2 (M+1).

reactant | (4-(1H-indol-5-yloxy)pyrimidin-2-yl)methanol | 1.95 mmol, 0.47 g | N1C=CC2=CC(=CC=C12)OC1=NC(=NC=C1)CO | C13H11N3O2
reactant | triethylamine | 5.84 mmol, 0.815 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.92 mmol, 0.228 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methylamine | CN | CH5N
reactant | water | 39.0 mmol, 3.37 ml | O | H2O
reactant | di-tert-butyl dicarbonate | 1.9 mmol, 0.42 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | tert-butyl (4-(1H-indol-5-yloxy)pyrimidin-2-yl)methyl(methyl)carbamate | N1C=CC2=CC(=CC=C12)OC1=NC(=NC=C1)CN(C(OC(C)(C)C)=O)C | C19H22N4O3
